US07718692B2
B. N-(4-Hydroxy-phenyl)-2-methanesulfonyl-acetamide
This compound was prepared from N-(4-benzyloxy-phenyl)-2-methanesulfonyl-acetamide, using the same method used to prepare of pyridine-2-carboxylic acid (4-hydroxyphenyl)amide. The product was purified by flash chromatography, on silica gel, eluted with 5 to 10% methanol in DCM, to give the product, 3.45 g (92%) as a colorless solid. MS m/z 230 (MH+). 1H NMR(DMSO-d6) δ 3.18 (s, 3H), 4.22 (s, 2H), 6.72 (d, 2H), 7.36 (d, 2H), 9.35(br s, 1H) and 10.17 (s, 1H). Anal. calcd for C9H11N4OS: C, 47.15; H, 4.84; N, 6.11. Found: C, 47.04; H, 4.79; N, 6.04.

reactant | N-(4-benzyloxy-phenyl)-2-methanesulfonyl-acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(CS(=O)(=O)C)=O | C16H17NO4S
reactant | pyridine-2-carboxylic acid (4-hydroxyphenyl)amide | OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C12H10N2O2
product | N-(4-Hydroxy-phenyl)-2-methanesulfonyl-acetamide | OC1=CC=C(C=C1)NC(CS(=O)(=O)C)=O | C9H11NO4S
